US07521453B2
5-(tert-Butoxycarbonylaminomethyl)-3-(pyrid-2-yl)isoxazole
Sodium hypochlorite (16 ml of a 14% w/v aqueous solution, 29.5 mmol) was added dropwise to a solution of 2-pyridinealdoxime (2 g, 16.4 mmol) and N-tert-butoxycarbonyl-propargylamine (5.6 g, 36.1 mmol) in DCM (30 ml) cooled in an ice bath. The mixture was stirred vigorously and allowed to warm to ambient temperature and stirred for 18 hours. The aqueous layer was separated and extracted with DCM. The combined organic extracts were combined, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography on silica gel eluting with diethyl ether/isohexane (1:1) to give the title compound (1.93 g, 43%). NMR (CDCl3) 1.45 (s, 9H), 4.5 (m, 2H), 5.03 (bs, 1H), 6.8 (s, 1H), 7.35 (m, 1H), 7.8 (m, 1H), 8.05 (d, 1H), 8.67 (m, 1H).

reactant | Sodium hypochlorite | Cl[O-].[Na+]
reactant | 2-pyridinealdoxime | 16.4 mmol, 2 g | N1=C(C=CC=C1)C=NO | C6H6N2O
reactant | N-tert-butoxycarbonyl-propargylamine | 36.1 mmol, 5.6 g | C(C)(C)(C)OC(=O)NCC#C | C8H13NO2
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | 5-(tert-Butoxycarbonylaminomethyl)-3-(pyrid-2-yl)isoxazole | 1.93 g, 43% | C(C)(C)(C)OC(=O)NCC1=CC(=NO1)C1=NC=CC=C1 | C14H17N3O3
